US05972946
Preparation of N-ethyl-2-[5,6-dimethyl-2-(4-nitrophenyl)-4-pyrimidinyloxy]-N-phenylacetamide:
The same procedures as Example 136 are repeated except that 5,6-dimetyl-2-(4-nitrophenyl)-4-(3H)-pyrimidinone and 2-bromo-N-ethyl-N-phenylacetamide are used instead of 5,6-dimethyl-2-phenyl-4-(3H)-pyrimidinone and 2-bromo-N,N-dipropylacetamide, respectively. The product thus obtained is recrystallized from acetonitrile to give the desired compound, m.p. 89-190° C.

reactant | 5,6-dimetyl-2-(4-nitrophenyl)-4-(3H)-pyrimidinone | CC=1C(NC(=NC1C)C1=CC=C(C=C1)[N+](=O)[O-])=O | C12H11N3O3
reactant | 2-bromo-N-ethyl-N-phenylacetamide | BrCC(=O)N(C1=CC=CC=C1)CC | C10H12BrNO
reactant | 5,6-dimethyl-2-phenyl-4-(3H)-pyrimidinone | CC=1C(NC(=NC1C)C1=CC=CC=C1)=O | C12H12N2O
reactant | 2-bromo-N,N-dipropylacetamide | BrCC(=O)N(CCC)CCC | C8H16BrNO
product | N-ethyl-2-[5,6-dimethyl-2-(4-nitrophenyl)-4-pyrimidinyloxy]-N-phenylacetamide | C(C)N(C(COC1=NC(=NC(=C1C)C)C1=CC=C(C=C1)[N+](=O)[O-])=O)C1=CC=CC=C1 | C22H22N4O4
